Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxia, difficulty speaking 
 
Major Surgical or Invasive Procedure:
Intubation for 24 hours

 
History of Present Illness:
___ woman with a history of COPD s/p trach and reversal 
on intermittent home O2, seizure disorder, and prior CVA who 
presents with hypoxia and difficulty speaking. 

Per her SNF, she was noted to be lethargic and hypoxic to the 
___, prompting her to be brought to the ED. The patient is 
unsure exactly why she was brought to the hospital, but says it 
is due to being sleepy and unable to eat breakfast at her SNF. 
She reports taking her oxycodone at 4AM instead of her usual 
midnight dose. She denies any recent illnesses or symptoms of 
fever/chills, myalgias/arthalgias, dysuria, increased diarrhea, 
or worsening cough/sputum. She is complaining of chronic back 
pain. She denies chest pain, dyspnea, abdominal pain or 
nausea/vomiting. She also was complaining of difficulty speaking 
with slurring of her words, which has never happened before. Her 
other neurologic deficits (lower extremity weakness and right 
arm incoordination) are at baseline.  

In the ED, she was hypoxic to the mid-80s on nasal cannula and 
was started on BiPAP. Her CXR was concerning of pulmonary edema 
and she was given 40 mg IV Lasix. She was noted to be 
hyperkalemic and was given calcium, insulin and dextrose.   

She was recently admitted from ___ for hypoxia requiring 
intubation thought to be secondary to pneumonia and COPD 
exacerbation. During that admission, she presented with hypoxia 
to 60% on RA and was intubated after failing a trial of BiPAP. 
She had severe hypercarbia and a primary respiratory acidosis. 
Her sputum grew Moraxella catarrhalis and Haemophilus influenza. 
She was treated for suspected CAP/COPD exacerbation with 
ceftriaxone, azithromycin, steroids, and bronchodilators. Her 
course was also complicated by hyperkalemia, hypoglycemia in the 
setting of new insulin exposure, acute kidney injury, 
bradycardia likely secondary to precedex, and UTI with E. coli 
treated as above. 

 
Past Medical History:
COPD w chronic resp failure status post tracheostomy in ___
Hypothyroidism
Morbid Obesity s/p gastric bypass
Anxiety
Sacral ulcer
ventral hernia and enterocutaneous fistula
Seizure disorder
Ischemic colitis
History of GI bleed from ulcer 
Delusional disorder
OSA?
CKD
Dysphagia 
Unspecified tracheostomy complication
Recurrent UTI

 
Social History:
___
Family History:
No family hx pulmonary disease 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VITALS: T 98.3 HR 80 BP 107/63 RR 24 O2 92% 4 L NC  
GENERAL: alert but sleepy, quickly falls asleep when not 
stimulated 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: JVP difficult to assess but not elevated, no LAD  
LUNGS: diminished breath sounds throughout, coarse rhonchi in L 
lung, otherwise clear to auscultation bilaterally, no wheezes
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: ostomy on RLQ, mid-lower abdomen with wound draining 
purulent material, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Nonpitting edema, Warm, well perfused, 2+ pulses, no 
clubbing, cyanosis 
NEURO: alert, strength ___ throughout  
ACCESS: 2 PIVs 

DISCHARGE PHYSICAL EXAM ___:
========================
VS:  98.4 ___ 18 96% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: MMM 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Subtle dry crackles at bilateral bases, no wheezes or 
congestion
GI: Abdomen soft, non-distended, non-tender to palpation. 
Morbidly obese. Bowel sounds present.  Midline wound with some 
bloody drainage, large scar with normal granulation tissue. RLQ 
ostomy with liquid stool.
MSK: Neck supple, moves all extremities. No lower extremity
pitting edema. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:40PM BLOOD WBC-14.4*# RBC-5.11 Hgb-15.7 Hct-50.9* 
MCV-100* MCH-30.7 MCHC-30.8* RDW-14.9 RDWSD-53.8* Plt ___
___ 12:40PM BLOOD Neuts-73.9* Lymphs-15.7* Monos-9.3 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-10.67* AbsLymp-2.26 
AbsMono-1.34* AbsEos-0.06 AbsBaso-0.05
___ 12:40PM BLOOD ___ PTT-31.2 ___
___ 11:45AM BLOOD Glucose-125* UreaN-25* Creat-1.4* Na-143 
K-6.2* Cl-104 HCO3-25 AnGap-14
___ 10:59PM BLOOD ALT-107* AST-125* LD(LDH)-784* 
AlkPhos-123* TotBili-0.2
___ 11:45AM BLOOD ___
___ 11:45AM BLOOD cTropnT-<0.01
___ 11:45AM BLOOD Albumin-3.6 Calcium-8.7 Phos-5.7* Mg-2.1
___ 10:59PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:53AM BLOOD ___ pO2-64* pCO2-69* pH-7.21* 
calTCO2-29 Base XS--2
___ 11:53AM BLOOD Lactate-1.2 K-5.3*

DISCHARGE LABS:
===============

___ 04:35AM BLOOD WBC-7.2 RBC-4.46 Hgb-13.2 Hct-43.7 MCV-98 
MCH-29.6 MCHC-30.2* RDW-14.0 RDWSD-50.5* Plt ___
___ 06:20AM BLOOD Glucose-89 UreaN-27* Creat-0.8 Na-139 
K-4.5 Cl-107 HCO3-23 AnGap-9*

___ 11:45AM BLOOD ___
___ 04:35AM BLOOD proBNP-___ woman with a history of COPD s/p tracheostomy and 
reversal on intermittent home O2, seizure disorder, morbid 
obesity s/p gastric bypass complicated by enterocutanous 
fistulas and ostomy, and CVAs who presented with hypoxia and 
reported difficulty speaking who was found to have acute on 
chronic hypercarbic/hypoxemic respiratory failure as well as ___ 
and hyperkalemia. 

___ HOSPITAL COURSE
====================
#Acute on chronic hypercarbic/hypoxemic respiratory failure 
#Acute on chronic diastolic CHF
#Aspiration and COPD
Patient presented with acute on chronic hypercarbic/hypoxemic 
respiratory failure in the setting of re-timing her opiate 
medications and reported sedation. Differential diagnoses 
include COPD exacerbation, pneumonia, CHF exacerbation, and 
sedative medication effect.  History and exam was not entirely 
consistent with COPD exacerbation and BNP was very elevated.  Pt 
was diursesed and given methylprednisolone in the ED. She was 
started on empiric ceftriaxone and azithromycin for CAP 
coverage. Overnight on ___, she had worsening hypercarbia and 
was started on BiPAP in the ICU. Despite aggressive therapy, pt 
developed acute hypoxia possibly secondary to aspiration and was 
intubated for 24hrs. Her respiratory status improved rapidly and 
she was extubated on ___. 
On transfer to the floor, she continued to improve with 
finishing her course of steroids and azithromycin for a possible 
COPD exacerbation.  Pt was continued on night BIPAP at ___ and 
aggressively diuresed for acute on chronic diastolic CHF. Pt was 
7L negative for the hospitalization and current dry weight in 
224lbs.  Pt should continue on Lasix 20mg daily to prevent 
recurrence CHF and nightly BIPAP at ___ to prevent recurrent 
hypercarbic resp failure. We recommend a follow up BMP on ___ 
0ct ___ to ensure stability.

#Hyperkalemia
K elevated to peak of 6.7, unclear etiology, has been high as 
well in the past. No concerning EKG changes. She was given 
insulin/dextrose and calcium. She was placed on a low K diet 
when no longer NPO and her K improved.   Pt is being discharged 
on daily Lasix, please obtain follow up BMP on ___.

#Acute kidney injury
Cr elevated to 1.4 from baseline 0.7; possibly in the setting of 
infection or poor PO intake. Of note, has history of worsened 
___ with diuresis. Nephrotoxins were avoided, urine output was 
monitored and Cr was trended and normalized. 

#Transaminitis
AST/ALT elevated in 100s. Possibly consistent with viral 
syndrome that may have precipitated respiratory decompensation; 
no documented hypotension to cause shock liver or evidence of 
volume overload causing congestive hepatopathy. LFTs downtrended 
and normalized.

#Dysarthria
Patient reported dysarthria in ED but symptoms have now 
resolved. Possibly recrudescence of deficits from prior stroke 
vs. speech difficulty in setting of AMS from hypercarbia. 
Patient has reported history of CVA, not on anticoagulation. She 
was monitored on telemetry for arrhythmia. Her reported 
difficulty speaking improved. 

CHRONIC ISSUES  
=================  
# Chronic pain
Her home Lyrica and oxycodone were initially held in the setting 
of altered mental status and hypercarbia. On the morning of 
___, Lyrica was restarted and oxycodone was titrated up as 
tolerated. Lidocaine patches were also used for back and 
shoulder pain.  Pt was using low dose cyclobenzaprine for muscle 
spasms without sedation.

# Hypothyroidism
Continued home levothyroxine 

# Seizure disorder
Continued home vimpat and keppra 

# Anxiety
Held Ativan with respiratory status. 

# GERD: Continued home pantoprazole.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. guaiFENesin 10 mL 100mg/5mL oral Q4H:PRN cough 
3. LACOSamide 200 mg PO BID 
4. LevETIRAcetam 1000 mg PO BID 
5. Levothyroxine Sodium 138 mcg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Pregabalin 75 mg PO BID 
8. Sarna Lotion 1 Appl TP BID:PRN to arms for pruritis 
9. Sodium Bicarbonate 650 mg PO QID 
10. Vitamin E 1000 UNIT PO DAILY 
11. albuterol sulfate 2.5mg/3mL  inhalation 1 IUD inhale orally 
via nebulizer Q6H:PRN 
12. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO Q6H:PRN 
GI upset 
13. Ascorbic Acid ___ mg PO DAILY 
14. BusPIRone 5 mg PO TID 
15. Fleet Enema (Mineral Oil) ___AILY:PRN constipation 
16. Gas Relief (simethicone) 125 mg oral TID 
17. Ipratropium-Albuterol Neb 1 NEB NEB Q8H:PRN dyspnea 
18. Lactaid (lactase) 3,000 unit oral TID:PRN before mild 
product 
19. LORazepam 0.5 mg PO DAILY:PRN dyspnea related to anxiety 
20. Miconazole 2% Cream 1 Appl TP BID apply to groin 
21. Milk of Magnesia 30 mL PO Q2H:PRN constipation 
22. Multivitamins 1 TAB PO DAILY 
23. nystatin 100,000 unit/gram topical BID 
24. Ondansetron 4 mg PO Q6H:PRN n/v 
25. Opium Tincture (morphine 10 mg/mL) 6 mg PO TID:PRN diarrhea 
26. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Cyclobenzaprine 5 mg PO TID:PRN muscle pain  
2.  Furosemide 20 mg PO DAILY  
3.  Lidocaine 5% Patch 1 PTCH TD QAM Left Ribs  
4.  Lidocaine 5% Patch 1 PTCH TD QAM Back  
5.  Tiotropium Bromide 1 CAP IH DAILY  
6.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
7.  albuterol sulfate 2.5mg/3mL  inhalation 1 IUD inhale orally 
via nebulizer Q6H:PRN  
8.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO Q6H:PRN 
GI upset  
9.  Ascorbic Acid ___ mg PO DAILY  
10.  BusPIRone 5 mg PO TID  
11.  Gas Relief (simethicone) 125 mg oral TID  
12.  guaiFENesin 10 mL 100mg/5mL oral Q4H:PRN cough  
13.  Ipratropium-Albuterol Neb 1 NEB NEB Q8H:PRN dyspnea  
14.  LACOSamide 200 mg PO BID  
15.  Lactaid (lactase) 3,000 unit oral TID:PRN before mild 
product  
16.  LevETIRAcetam 1000 mg PO BID  
17.  Levothyroxine Sodium 138 mcg PO DAILY  
18.  Miconazole 2% Cream 1 Appl TP BID apply to groin  
19.  Milk of Magnesia 30 mL PO Q2H:PRN constipation  
20.  Multivitamins 1 TAB PO DAILY  
21.  nystatin 100,000 unit/gram topical BID  
22.  Ondansetron 4 mg PO Q6H:PRN n/v  
23.  Opium Tincture (morphine 10 mg/mL) 6 mg PO TID:PRN diarrhea 
 
24.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild  
25.  Pantoprazole 40 mg PO Q24H  
26.  Pregabalin 75 mg PO BID  
27.  Sarna Lotion 1 Appl TP BID:PRN to arms for pruritis  
28.  Vitamin E 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic hypercarbic and hypoxic respiratory failure
Chronic obstructive pulmonary disease exacerbation
Obesity hypoventilation
Aspiration
Diastolic Heart failure with preserved ejection fraction

 
Discharge Condition:
Good, mentating appropriately and sating well on RA

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital because you were having 
difficulty breathing. We treated you both an exacerbation of 
your COPD with steroids, antibiotics, and inhalers. We also 
treated you for a pneumonia with IV antibiotics. We used a 
non-invasive breathing machine called BIPAP to help with 
breathing at night. It is very important that you continue to 
use nightly at home. In addition, you should follow up with a 
pulmonologist to make sure that you get further testing for COPD 
and that you are on all necessary treatment. You also had to be 
intubated briefly because it appeared that you aspirated into 
your lungs, but fortunately this quickly got better and you were 
extubated.

You were treated for volume overload while in the hospital and 
this has also helped your breathing.  It is important to 
continue taking Lasix 20mg daily to prevent recurrence of fluid. 
 The facility will need to check your labs on ___ to make 
sure your kidney's are continuing to tolerate this medication 
well.

It was a pleasure taking care of you!

Sincerely,
Your ___ team
 
Followup Instructions:
___